### PR TITLE
chore: replace `simp_all` with `simp` whenever possible

### PR DESCRIPTION
**Pull request by felixpernegger**
Replaces `simp_all (only)` with `simp (only)` whenever possible. About 5% of total `simp_all` occurences. Excludes MathlibTest.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/42656b3a89df53300aca3f4e16a32fb6da658851?reference=abb22825db7e020c94f38a007ae3fffe6c3a7532) for 42656b3a89df53300aca3f4e16a32fb6da658851 against abb22825db7e020c94f38a007ae3fffe6c3a7532 are in. There are significant results. @felixpernegger

- 🟥 `main` exited with code **1**

No significant changes detected.

**Comment by felixpernegger** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/08735e27f87c408a641ef7bd2d01516de949c8ad?reference=abb22825db7e020c94f38a007ae3fffe6c3a7532) for 08735e27f87c408a641ef7bd2d01516de949c8ad against abb22825db7e020c94f38a007ae3fffe6c3a7532 are in. No significant results found. @felixpernegger

- 🟥 `build//instructions`: **+139.8G** (**+0.10%**)

No significant changes detected.

**Comment by felixpernegger** [comment]
I really dont understand how this can give a significant slowdown.

**Comment by felixpernegger** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/08735e27f87c408a641ef7bd2d01516de949c8ad?reference=abb22825db7e020c94f38a007ae3fffe6c3a7532) for 08735e27f87c408a641ef7bd2d01516de949c8ad against abb22825db7e020c94f38a007ae3fffe6c3a7532 are in. (These commits have already been benchmarked in a previous command.) No significant results found. @felixpernegger

- 🟥 `build//instructions`: **+139.8G** (**+0.10%**)

No significant changes detected.

**Comment by felixpernegger** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/8356d0d93a437aa6c6c6281d5887587698c8e0fb?reference=abb22825db7e020c94f38a007ae3fffe6c3a7532) for 8356d0d93a437aa6c6c6281d5887587698c8e0fb against abb22825db7e020c94f38a007ae3fffe6c3a7532 are in. No significant results found. @felixpernegger

- 🟥 `build//instructions`: **+107.7G** (**+0.07%**)

No significant changes detected.

**Comment by themathqueen** [comment]
!radar

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/8863d246c4bf2f2922cdaf0d05bf179d3c7d3305?reference=1a9188a8647774da43efde12a5657f72b6f2ed67) for 8863d246c4bf2f2922cdaf0d05bf179d3c7d3305 against 1a9188a8647774da43efde12a5657f72b6f2ed67 are in. No significant results found. @themathqueen

- ✅ `build//instructions`: **-8.6G** (**-0.01%**)

No significant changes detected.

**Comment by themathqueen** [comment]
There are some errors to fix: "simp arguments not used"

**Comment by themathqueen** [comment]
Whenever you want to bench, I think it's best to always merge master and then immediately bench, so that it's a lot less noise that you're measuring

**Comment by felixpernegger** [comment]
> Whenever you want to bench, I think it's best to always merge master and then immediately bench, so that it's a lot less noise that you're measuring

Thanks for the advice!

**Comment by felixpernegger** [comment]
-awaiting-author

**Comment by vlad902** [comment]
I don't understand why the declarations linter is picking up a removed declaration for this PR, do you?

File: Mathlib/Topology/LocallyFinsupp.lean [hunk 1]
```diff
@@ -286,8 +286,8 @@ protected def addSubmonoid [AddMonoid Y] : AddSubmonoid (X → Y) where
       use t₁ ∩ t₂, inter_mem ht₁.1 ht₂.1
       apply Set.Finite.subset (s := (t₁ ∩ f.support) ∪ (t₂ ∩ g.support)) (ht₁.2.union ht₂.2)
       intro a ha
-      simp_all only [support_subset_iff, ne_eq, mem_ofPred_eq,
-        mem_inter_iff, mem_support, Pi.add_apply, mem_union, true_and]
+      simp only [ne_eq,
+        mem_inter_iff, mem_support, mem_union]
```
Comment (themathqueen) [inline Mathlib/Topology/LocallyFinsupp.lean]:
```suggestion
      simp only [ne_eq, mem_inter_iff, mem_support, mem_union]
```

File: Mathlib/RingTheory/OrderOfVanishing/Basic.lean [hunk 2]
```diff
@@ -37,7 +37,7 @@ def ord (x : R) : ℕ∞ := Module.length R (R ⧸ Ideal.span {x})
 
 @[simp]
 lemma ord_one : ord R 1 = 0 := by
-  simp_all [ord,
+  simp [ord,
     Ideal.span_singleton_one, Submodule.Quotient.subsingleton_iff]
```
Comment (themathqueen) [inline Mathlib/RingTheory/OrderOfVanishing/Basic.lean]:
```suggestion
  simp [ord, Ideal.span_singleton_one, Submodule.Quotient.subsingleton_iff]
```

File: Mathlib/RingTheory/HahnSeries/Summable.lean [hunk 3]
```diff
@@ -376,7 +376,7 @@ theorem smul_support_subset_prod (s : SummableFamily Γ R α)
     (Function.support fun (i : α × β) ↦ (s i.1).coeff gh.1 • (t i.2).coeff gh.2) ⊆
     ((s.finite_co_support' gh.1).prod (t.finite_co_support' gh.2)).toFinset := by
   intro _ hab
-  simp_all only [Function.mem_support, ne_eq, Set.Finite.coe_toFinset, Set.mem_prod,
+  simp only [ne_eq, Set.Finite.coe_toFinset, Set.mem_prod,
     Set.mem_ofPred_eq]
```
Comment (themathqueen) [inline Mathlib/RingTheory/HahnSeries/Summable.lean]:
```suggestion
  simp only [ne_eq, Set.Finite.coe_toFinset, Set.mem_prod, Set.mem_ofPred_eq]
```

File: Mathlib/Data/Set/Image.lean [hunk 4]
```diff
@@ -341,8 +341,8 @@ theorem range_inter_ssubset_iff_preimage_ssubset {f : α → β} {s s' : Set β}
   constructor
   all_goals
     intro r x hx
-    simp_all only [subset_inter_iff, inter_subset_left, true_and, mem_preimage,
-      mem_inter_iff, mem_range, true_and]
+    simp only [mem_preimage,
+      mem_inter_iff, mem_range]
```
Comment (themathqueen) [inline Mathlib/Data/Set/Image.lean]:
```suggestion
    simp only [mem_preimage, mem_inter_iff, mem_range]
```

Comment (felixpernegger) [reply Mathlib/Data/Set/Image.lean]: thx

**Comment by felixpernegger** [comment]
-awaiting-author

**Comment by themathqueen** [comment]
@vlad902, the removed lemma
```diff
-TannakaDuality.FiniteGroup.algHomOfRightFDRepComp.congr_simp
```
isn't really an actual lemma. I'm guessing by changing `simp_all` to `simp` somewhere in that file, the `congr_simp` was unused and so doesn't exist anymore?

I'm just guessing though, don't take my word for it. But that lemma being removed isn't something we should worry about.

**Comment by themathqueen** [comment]
When you fix the merge conflict, feel free to ping me for a review.
